US04701211
Triethyl-(3-(trifluoromethyl)benzyl) ammonium chloride
A mixture of 15.3 grams (0.08 mole) of 3-(trifluoromethyl)benzyl chloride and 8.0 grams (0.086 mole) of triethylamine in 50 milliliters of acetonitrile was heated 6 hours at 85° C. The mixture was then stirred over a weekend at room temperature. The crystals which formed were slurried in ethyl ether. The crude product was recovered by filtration and extracted with 600 milliliters of hot methyl ethyl ketone and 0.50 ml of methylene dichloride. The triethyl-(3-trifluoromethyl)benzyl) ammonium chloride was recoved by filtration in a yield of 13.7 grams. The product melted at 213°-215° C. The structure of the compound was confirmed by NMR.

reactant | 3-(trifluoromethyl)benzyl chloride | 0.08 mole, 15.3 grams | FC(C=1C=C(CCl)C=CC1)(F)F | C8H6ClF3
reactant | triethylamine | 0.086 mole, 8.0 grams | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 50 milliliters | C(C)#N | C2H3N
solvent | ethyl ether | C(C)OCC | C4H10O
product | Triethyl-(3-(trifluoromethyl)benzyl) ammonium chloride | [Cl-].C(C)[N+](CC1=CC(=CC=C1)C(F)(F)F)(CC)CC | InChI=1S/C14H21F3N.ClH/c1-4-18(5-2,6-3)11-12-8-7-9-13(10-12)14(15,16)17;/h7-10H,4-6,11H2,1-3H3;1H/q+1;/p-1
